US06649633B2
A mixture of 300 mg (0.66 mmol.) 4′-[[[2-[4-Fluorophenoxy]-pyridine-3-carbonyl]-amino]-methyl]-biphenyl-3-carboxylic acid methyl ester and 1.6 mL 1.0 N NaOH in 10 mL t-butanol and 3 mL water and refluxed for 4 hours. The mixture was poured into water, acidified to pH 1 with 2N HCl, then extracted with ethyl acetate. The ethyl acetate extracted were combined, washed successively with water, brine then dried (MgSO4) and concentrated to give an oil. Chromatography on Silica Gel eluting with methanol/dichloromethane (1:40) yielded a foam. Recrystallization from ethyl acetate/hexanes afforded 151 mg 4′-[[[2-[4-Fluorophenoxy]-pyridine-3-carbonyl]-amino]-methyl]-biphenyl-3-carboxylic acid as a solid, mp 184-6° C.

reactant | 4′-[[[2-[4-Fluorophenoxy]-pyridine-3-carbonyl]-amino]-methyl]-biphenyl-3-carboxylic acid methyl ester | 0.66 mmol, 300 mg | COC(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)CNC(=O)C=1C(=NC=CC1)OC1=CC=C(C=C1)F | C27H21FN2O4
reactant | NaOH | 1.0 N, 1.6 mL | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
reactant | methanol dichloromethane | CO.ClCCl
solvent | t-butanol | 10 mL | C(C)(C)(C)O | C4H10O
solvent | water | 3 mL | O | H2O
product | 4′-[[[2-[4-Fluorophenoxy]-pyridine-3-carbonyl]-amino]-methyl]-biphenyl-3-carboxylic acid | 151 mg | FC1=CC=C(OC2=NC=CC=C2C(=O)NCC2=CC=C(C=C2)C2=CC(=CC=C2)C(=O)O)C=C1 | C26H19FN2O4
